** sch_path: /foss/designs/switch_matrix_gf180mcu_9t5v0/swmatrix_Tgate/swmatrix_Tgate.sch
.subckt swmatrix_Tgate gated_control T2 T1 VSSd VDDd
*.PININFO T1:B T2:B VDDd:B VSSd:B gated_control:I
M1 T1 gated_control T2 VSSd nfet_03v3 L=0.28u W=mn_w nf=6 m=1
M2 T1 gated_controlb T2 VDDd pfet_03v3 L=0.28u W=mp_w nf=6 m=1
x1 gated_control gated_controlb VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
**** begin user architecture code


.param mn_w=24u
.param mp_w=72u

**** end user architecture code
.ends
